data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]#CC.[H:10][Na:11]>>CC#[C-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:10][C:11]1(CCCCC1)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCCCC1.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)CCC)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)CCC)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CCO[C:20]1(C=CC=C[N-:10]1)[Cl:21]>>CCO[C:20]1=[N:10]C=CC=C1.[Cl-:21] 10=20;20,21=21
C[C+:20]=O.C1=CO[CH:10]=[C:11]1Br>>C[C:20](=O)[CH:10]1[C+:11](C=CO1)Br 10,11=10,20
C[C:11]#[C:10]CCC[N+:21](=[CH2:20])CC1=CC=CC=C1.CO.[N-]=[N+]=[N-].O.[Na+]>>C[C+:11]=[C:10]1CCC[N:21]([CH2:20]1)CC2=CC=CC=C2.CO.[N-]=[N+]=[N-].O.[Na+] 10,11=10,20;20,21=21
[H:20][O:21]C(CCCCC)C1CCCCC1.[H:10][Na:11]>>CCCCCC(C1CCCCC1)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC[CH:10]=[C:11]=[NH:12]>>[H:20][CH:10](COCC)[C:11]#[NH+:12].OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CC(C1=CC=C(C=C1)OC)[C:20]([OH:10])([OH+:21]C)OC.CS(=O)(=O)[O-]>>CC(C1=CC=C(C=C1)OC)[C:20](=[OH+:10])OC.C[OH:21].CS(=O)(=O)[O-] 10=20;20,21=21
C1=CC=C(C=C1)C(C[C:20](=[O:21])C2=C3C=CC=CC3=CC=C2)C(=O)C4=CC=CO4.C(C(=O)O)[NH2:10].CC(=O)O>>C1=CC=C(C=C1)C(C[C:20](C2=C3C=CC=CC3=CC=C2)([NH2+:10]CC(=O)O)[O-:21])C(=O)C4=CC=CO4.CC(=O)O 10=20;20,21=21
[H:20][Br:21].C[C:11]1=[CH:10]CCCCC1(C)C>>[H:20][CH:10]1CCCCC([C+:11]1C)(C)C.[Br-:21] 10,11=10,20;20,21=21
[H:20][O:21]O.[OH2:10]>>[H:20][OH2+:10].O[O-:21] 10=20;20,21=21
C1CCC(CC1)NC(=[N:10]C2CCCCC2)O[C:20](=[O:21])CC3=CC=CC=C3.CCOC(=O)CC=CCO.C1CCN(C1)C2=CC=NC=C2>>C1CCC(CC1)NC2=[N+:10]([C:20](O2)(CC3=CC=CC=C3)[O-:21])C4CCCCC4.CCOC(=O)CC=CCO.C1CCN(C1)C2=CC=NC=C2 10=20;20,21=21
CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C(C[S+](C)O[C:20](C(F)(F)F)([O-:10])[O:21]C(=O)C(F)(F)F)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O>>CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C(C[S+](C)O[C:20](=[O:10])C(F)(F)F)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)[O-:21].C(=O)(C(F)(F)F)O 10=20;20,21=21
CC1CCC(CC1)S(=O)(=O)[CH-:10][N+]#[C-].C1CC[C:20](=[O:21])C1>>CC1CCC(CC1)S(=O)(=O)[CH:10]([C:20]2(CCCC2)[O-:21])[N+]#[C-] 10=20;20,21=21
CN1[CH:20]=[CH:21][C:22](=[NH+:23]C1=O)N.[O-][S-:10](=O)=O>>CN1[CH:20]([CH:21]=[C:22]([NH:23]C1=O)N)[S:10](=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CC(C)O[Al-:10](OC1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1)(OC(C)C)[O+:11]=C(C)C.CC(C)O>>CC(C)O[Al:10](OC1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1)OC(C)C.CC(=[O:11])C.CC(C)O 10,11=11
CN(C)[C:11](=[CH2:10])[O-:12].C1=CC=C(C=C1)[CH2:20][Br:21]>>CN(C)[C:11](=[O:12])[CH2:10][CH2:20]C1=CC=CC=C1.[Br-:21] 10,11=10,20;20,21=21;12=11
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)[O:11]C(=O)C>>CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-:11] 10,11=11
CCCCC12CCC(C(C1)(CCC3C2CC3(C)C)OC)[O-:10].CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>CCCCC12CCC(C(C1)(CCC3C2CC3(C)C)OC)[O:10][P:20](C4=CC=CC=C4)(C5=CC=CC=C5)(C6=CC=CC=C6)N(C(=O)OCC)NC(=O)OCC 10=20,
C1CCC(CC1)[C:20](=[OH+:21])N.[OH2:10]>>C1CCC(CC1)[C:20](N)([OH2+:10])[OH:21] 10=20;20,21=21
CCC(=O)N[C:11]1=[CH:10]C=CC=C1.C[CH+:20]C>>CCC(=O)N[C+:11]1C=CC=C[CH:10]1[CH:20](C)C 10,11=10,20
[H:20][O:21][C:22](=[O+:23]C1CC2CCC1C2)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C[C:22](=[O:21])[O:23]C1CC2CCC1C2 10=20;22,23=23;20,21=21,22
[H:20][Br:21].CC1(CCCC[CH:10]=[C:11]1C2=CC=CC=C2)C>>[H:20][CH:10]1CCCCC([C+:11]1C2=CC=CC=C2)(C)C.[Br-:21] 10,11=10,20;20,21=21
C1CCC(CC1)N[C:20](=[N:21]C2CCCCC2)[O:10][C:11](CC3=CC=CC=C3)([N+]4=CC=C(C=C4)N5CCCC5)[O-:12].CCOC(=O)CC=CCO>>C1CCC(CC1)N[C:20](=[O:10])[N-:21]C2CCCCC2.C1CCN(C1)C2=CC=[N+](C=C2)[C:11](=[O:12])CC3=CC=CC=C3.CCOC(=O)CC=CCO 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C(CCC)CC(=O)OC(C)(C)C.CC[N:10](CC)CC.CCOC(=O)Cl>>[H:20][N+:10](CC)(CC)CC.CCCC(CC(=O)OC(C)(C)C)C(=O)[O-:21].CCOC(=O)Cl 10=20;20,21=21
[H:20][N+:21]1(CCOCC1)C2(CCC3(CC2)OCCO3)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1CC2(CCC1([N:21]3CCOCC3)O)OCCO2 10=20;20,21=21
C[C:10]#[C:11][N:12](C)S(=O)(=O)C.CC(=[C:20]=[N+:21](C)S(=O)(=O)C)C(=N[Si](C)(C)C)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[C:10](=[C:11]=[N+:12](C)S(=O)(=O)C)[C:20](=C(C)C(=N[Si](C)(C)C)C)[N:21](C)S(=O)(=O)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
COC1=C(C2=C(CC3C4C2(CCN3C5=CC=CC=C5)[CH+:20]C(=CC4)O)C=C1)[OH:10].CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C2C3=C(CC4C5C3(CCN4C6=CC=CC=C6)[CH:20]([OH+:10]2)C(=CC5)O)C=C1.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10=20,
[H:20][C:21]1(C=CC=C[CH+:22]1)C(C)(C)CC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(C)(C)[C:21]1=[CH:22]C=CC=C1 10=20;20,21=21,22
CCCC1CC2=C(C(=C(C=C2)OC)O)C(=O)[C:10]1=[CH:11][O-:12].C[C:22](=[O:23])[CH:21]=[CH2:20].CC[NH+](CC)CC>>CCCC1CC2=C(C(=C(C=C2)OC)O)C(=O)[C:10]1([CH2:20][CH:21]=[C:22](C)[O-:23])[CH:11]=[O:12].CC[NH+](CC)CC 10,11=10,20;12=11;22,23=23;20,21=21,22
